US05019578
(R)-α[[(Cyclopropyl)amino]methyl]tetrazolo[1,5-a]pyridine-6-methanol
A solution of 375 mg (2.31 mmol) of (R)-2-(tetrazolo[1,5-a]pyrid-6-yl)oxirane and 652 mg (11.4 mmol) of cyclopropyl amine in 0.9 ml of absolute ethanol in a sealed reaction tube was heated at 100° C. for 3 hours. The reaction mixture was concentrated to dryness to yield 452 mg of crude product. Chromatography on silica gel (90:10:1 methylene chloride:methanol:conc. ammonium hydroxide) afforded 356 mg of product, m.p. 137°-39°.

reactant | (R)-2-(tetrazolo[1,5-a]pyrid-6-yl)oxirane | 2.31 mmol, 375 mg | N=1N=NN2C1C=CC(=C2)[C@H]2OC2 | C7H6N4O
reactant | cyclopropyl amine | 11.4 mmol, 652 mg | C1(CC1)N | C3H7N
solvent | ethanol | 0.9 ml | C(C)O | C2H6O
product | (R)-α[[(Cyclopropyl)amino]methyl]tetrazolo[1,5-a]pyridine-6-methanol | 356 mg | C1(CC1)NC[C@H](O)C=1C=CC=2N(C1)N=NN2 | C10H13N5O
